US05877174
A mixture of 10.0 g of 1-(2,4-dimethoxy-benzyl)-2,3-dioxopiperazine, 1.66 g of sodium hydride (60%, oil) and 100 ml of N,N-dimethylformamide was stirred at 50° C. for 30 minutes and then cooled to room temperature. To the reaction mixture was added 3.6 ml of methyl bromoacetate, after which the resulting mixture was stirred at the same temperature for 30 minutes and added to a mixed solvent of 200 ml of ethyl acetate and 200 ml of ice water, and the pH was adjusted to 2 with 2N hydrochloric acid. The organic layer was separated and the aqueous layer was extracted with five 50-ml portions of ethyl acetate. The combined organic layer was washed with 50 ml of water and then a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent; chloroform: methanol=10:1) to obtain 10.7 g of methyl [4-(2,4-dimethoxybenzyl)-2,3-dioxopiperazin-1-yl]acetate as a colorless oil.

reactant | 1-(2,4-dimethoxy-benzyl)-2,3-dioxopiperazine | 10.0 g | COC1=C(CN2C(C(NCC2)=O)=O)C=CC(=C1)OC | C13H16N2O4
reactant | sodium hydride | 1.66 g | [H-].[Na+]
reactant | methyl bromoacetate | 3.6 ml | BrCC(=O)OC | C3H5BrO2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | methyl [4-(2,4-dimethoxybenzyl)-2,3-dioxopiperazin-1-yl]acetate | 10.7 g | COC1=C(CN2C(C(N(CC2)CC(=O)OC)=O)=O)C=CC(=C1)OC | C16H20N2O6
